US07919488B2
Methyl (1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)methylcarbamate
To a solution of 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine (150 mg, 0.37 mmol) in DCM (3 mL) at room temperature was added triethylamine (56 μL, 0.40 mmol) followed by methyl chloroformate (29 μL, 0.37 mmol) and the solution stirred for 10 minutes. The solution was then loaded directly onto a pre-wetted Biotage 25M column for flash chromatography and eluted with 2-8% MeOH/DCM to yield the title compound as a white solid, 122 mg, 71%. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.52 (2 H, d, J=4.80 Hz), 7.66 (2 H, d, J=5.05 Hz), 7.30 (2 H, dd, J=8.34, 5.81 Hz), 7.15 (2 H, t, J=8.72 Hz), 6.52 (1 H, s), 5.10-5.27 (2 H, m), 4.38 (1 H, d, J=12.63 Hz), 3.99-4.16 (1 H, m), 3.85-4.00 (3 H, m), 3.59 (3 H, s), 3.04-3.16 (1 H, m), 2.70 (3 H, s), 2.56-2.67 (1 H, m), 1.41-1.75 (4 H, m); m/z (APCI+) for C25H28N5O3F 466.2 (M+H)+.

reactant | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine | 0.37 mmol, 150 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)NC)C2=CC=NC=C2)C=C1 | C23H26FN5O
reactant | triethylamine | 0.40 mmol, 56 μL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.37 mmol, 29 μL | ClC(=O)OC | C2H3ClO2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | Methyl (1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)methylcarbamate | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)CNC(OC)=O)C2=CC=NC=C2)C=C1 | C25H28FN5O3
